US04029658
4. Allyl triethyl ammonium bromide
20.2 grams of triethyl amine was added to 24.2 grams of allyl bromide in 44 grams of ethyl acetate. A crystalline solid started to separate within 5 minutes. After 24 hours at 25° C., the product was filtered, washed, and dried. The isolated product weighed 41.3 grams and melted at 220°-234° C. with decomposition. Bromide analysis showed 97.5% of the theoretical amount of bromide present in the water-soluble white crystalline solid.

reactant | triethyl amine | 20.2 grams | C(C)N(CC)CC | C6H15N
reactant | allyl bromide | 24.2 grams | C(C=C)Br | C3H5Br
solvent | ethyl acetate | 44 grams | C(C)(=O)OCC | C4H8O2
product | Allyl triethyl ammonium bromide | [Br-].C(C=C)[N+](CC)(CC)CC | InChI=1S/C9H20N.BrH/c1-5-9-10(6-2,7-3)8-4;/h5H,1,6-9H2,2-4H3;1H/q+1;/p-1
